US05519138
2-n-Butyl-4-methyl-1-[4-[(α-carboxy)benzyloxy]benzyl]-6-cyclohexylcarbonylamino-benzimidazole
Prepared analogously to Example 1b from 2-n-butyl-4-methyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]-6-cyclohexylcarbonylaminobenzimidazole and 2N sodium hydroxide solution in ethanol.

reactant | 2-n-butyl-4-methyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]-6-cyclohexylcarbonylaminobenzimidazole | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)OCC)C=C(C=C2C)NC(=O)C2CCCCC2 | C36H43N3O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Butyl-4-methyl-1-[4-[(α-carboxy)benzyloxy]benzyl]-6-cyclohexylcarbonylamino-benzimidazole | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)O)C=C(C=C2C)NC(=O)C2CCCCC2 | C34H39N3O4
